US05576321
Preparation of (2S)-(+)-3-[4-(5-chloro-3-benzo[b]thiophenyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.053 g, 0.028 mmol) and the hydrochloride salt of 5-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene (0.081 g, 0.028 mmol) using ethanol as reaction solvent and 1.1 equivalents of potassium carbonate (0.043 g, 0.031 mmol). Yield 0.103 g (83%) of a tan foam. mp 93°-97° C. FDMS m/e=438 (M+ of free base). α[D]589 =+7.5 (c=1.06, dimethylsufoxide)

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 0.028 mmol, 0.053 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 5-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene | 0.028 mmol, 0.081 g | ClC1=CC2=C(SC=C2C=2CCNCC2)C=C1 | C13H12ClNS
reactant | potassium carbonate | 0.031 mmol, 0.043 g, 1.1 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (2S)-(+)-3-[4-(5-chloro-3-benzo[b]thiophenyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC1=CC2=C(SC=C2C=2CCN(CC2)C[C@@H](COC2=C3C=CNC3=CC=C2)O)C=C1 | C24H23ClN2O2S
